US04220761
A mixture of ethyl 2-(2-benzoyloxyethoxyimino)-4-chloro-3-oxobutyrate (syn isomer, 29 g.), thiourea (7.76 g.), sodium acetate (8.37 g.), water (75 ml.) and ethanol was stirred at 40° C. for an hour. The reaction mixture was treated in a conventional manner to give ethyl 2-(2-aminothiazol-4-yl)-2-(2-benzoyloxyethoxyimino)acetate (syn isomer, 9 g.).

reactant | ethyl 2-(2-benzoyloxyethoxyimino)-4-chloro-3-oxobutyrate | 29 g | C(C1=CC=CC=C1)(=O)OCCON=C(C(=O)OCC)C(CCl)=O | C15H16ClNO6
reactant | thiourea | 7.76 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 8.37 g | C(C)(=O)[O-].[Na+]
reactant | water | 75 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-(2-aminothiazol-4-yl)-2-(2-benzoyloxyethoxyimino)acetate | 9 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCOC(C1=CC=CC=C1)=O | C16H17N3O5S
